US07384934B2
(S)-2-(4-Hydroxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester
Into a stirred solution of (S)-2-(3-carboxypropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (0.596 g, 1.60 mmol) in THF add 1.0 M BH3 in THF (3.2 mL, 3.20 mmol) and continue stirring overnight. Concentrate the mixture under reduced pressure, dilute with H2O (30 mL) and extract with EtOAc (3×50 mL). Dry the organic layers with Na2SO4 filter concentrate under reduced pressure, azeotrope the residue with CH2Cl2/hexanes (1:2) and place the residue under vacuum to give the title compound: colorless solid (0.604 g), mass spectrum (m/e):359.12 (M+H).

reactant | (S)-2-(3-carboxypropyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 1.60 mmol, 0.596 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCC(=O)O | C18H32N2O6
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.20 mmol, 3.2 mL | C1CCOC1 | C4H8O
product | (S)-2-(4-Hydroxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCCO | C18H34N2O5
